US04562261
N"-[4-(chloromethyl)-4,5-dihydro-4-hydroxy-2-thiazolyl]-guanidine hydrochloride
60.0 kg of dichloroacetone is dissolved in 550 ml of acetone. After cooling the solution to -5°~-7° C., 55.8 kg of (aminoiminomethyl)thiourea [amidinothiourea] is added to the solution under cooling portionwise at one hour intervals each time in a 10 kg amount of amidinothiourea. The mixture is stirred continuously for 5 days below 0° C. The resultant precipitates are collected by filtration, and washed with 50 l of acetone to provide 111.6 kg of the desired compound. This material can be used as the starting material for the next process.

reactant | dichloroacetone | 60.0 kg | ClC(C(C)=O)Cl | C3H4Cl2O
reactant | (aminoiminomethyl)thiourea | 55.8 kg | NN=CNC(=S)N | C2H6N4S
reactant | amidinothiourea | C(N)(=N)NC(=S)N | C2H6N4S
solvent | acetone | 550 ml | CC(=O)C | C3H6O
product | N"-[4-(chloromethyl)-4,5-dihydro-4-hydroxy-2-thiazolyl]-guanidine hydrochloride | 111.6 kg | Cl.ClCC1(N=C(SC1)N=C(N)N)O | InChI=1S/C5H9ClN4OS.ClH/c6-1-5(11)2-12-4(10-5)9-3(7)8;/h11H,1-2H2,(H4,7,8,9,10);1H
